US03954776
A mixture of 5.2 g of 1-chloro-3-[2-(2-methoxyethoxy)phenoxy]-2-propanol, 4.6 g of 2,6-dimethylpiperidine and 50 ml of ethanol is refluxed for 16 hours. The ethanol is removed, and ether is added to the residue. The insoluble matter is filtered off, and the filtrate is extracted with two 80 ml portions of 10% hydrochloric acid. The aqueous layer is made alkaline with sodium hydroxide, and the separated oil is extracted twice with ether. The ether layer is dried over anhydrous potassium carbonate, and the ether is removed to give 5.0 g of 1-(2,6-dimethylpiperidino)-3-[2-(2-methoxyethoxy)phenoxy]-2-propanol, melting at 92°-94°C.

reactant | 1-chloro-3-[2-(2-methoxyethoxy)phenoxy]-2-propanol | 5.2 g | ClCC(COC1=C(C=CC=C1)OCCOC)O | C12H17ClO4
reactant | 2,6-dimethylpiperidine | 4.6 g | CC1NC(CCC1)C | C7H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2,6-dimethylpiperidino)-3-[2-(2-methoxyethoxy)phenoxy]-2-propanol | 5.0 g | CC1N(C(CCC1)C)CC(COC1=C(C=CC=C1)OCCOC)O | C19H31NO4
